US07179804B2
5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carbonitrile
Combine 5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carboxylic acid amide (0.106 g, 0.30 mmol) and p-toluenesulfonyl chloride (0.069 g, 0.36 mmol) in pyridine (0.1 M), and stir at RT. After 2 h, quench the reaction with MeOH and concentrate. Redissolve in EtOAc, wash with H2O and brine, then dry (MgSO4), filter, and concentrate. Purify by radial chromatography on silica gel to give the title compound. MS (ES) 335.1 (M+1); 1H NMR (300 MHz, CD3OD): δ 7.96 (s, 1H), 7.77 (s, 2H), 7.37 (s, 1H), 5.31 (s, 2H).

reactant | 5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carboxylic acid amide | 0.30 mmol, 0.106 g | NC1=C(N=CN1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N | C13H10F6N4O
reactant | p-toluenesulfonyl chloride | 0.36 mmol, 0.069 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 0.1 M | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carbonitrile | NC1=C(N=CN1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C#N | C13H8F6N4
